US07700595B2
[3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl](2,5-dimethylbenzyl)amine
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and 2,5-dimethylbenzaldehyde according to the procedure of Step 5 Example 6. MS (ES) m/z 450.2.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | 2,5-dimethylbenzaldehyde | CC1=C(C=O)C=C(C=C1)C | C9H10O
product | [3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl](2,5-dimethylbenzyl)amine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)NCC1=C(C=CC(=C1)C)C | C29H24ClN3
